US05219847
I-7-1: Synthesis of 6-butoxy-α-picoline
To a solution of 18.7 g (0.17 mol) of 6-hydroxy-2-methylpyridine (commercially available) and 24.0 g (0.17 mol) of n-butyl bromide dissolved in 100 ml of dimethylformamide was added 23.0 g (0.17 mol) of potassium carbonate, and the mixture was stirred at 90°-110° C. for 8 hours. To the mixture was added 300 ml of ice-water, and the mixture extracted with ethyl acetate, followed by a separation of the oily extract obtained by silica gel chromatography (ethyl acetate:hexane=7:97) to give 19.8 g of an oily substance (yield 69.9%).

reactant | 6-hydroxy-2-methylpyridine | 0.17 mol, 18.7 g | OC1=CC=CC(=N1)C | C6H7NO
reactant | n-butyl bromide | 0.17 mol, 24.0 g | C(CCC)Br | C4H9Br
reactant | potassium carbonate | 0.17 mol, 23.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-butoxy-α-picoline | yield 69.9% | C(CCC)OC1=CC=CC(=N1)C | C10H15NO
